US09382265B2
(b) N-((3R,3aS)-3-(((t-butyldimethylsilyl)oxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-N-methylacetamide
Compound N-((3R,3aS)-3-(((t-butyldimethylsilyl)oxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-acetamide (0.685 g, 1.747 mmol) was dissolved in 20 ml of THF and cooled on ice-salt bath. 60% NaH (0.14 g, 3.495 mmol) was added. The ice bath was removed, and the reaction mixture was stirred at room temperature for 30 min, and then cooled on ice-salt bath. Iodomethane (0.496 g, 3.495 mmol) was added slowly in dropwise. The ice bath was removed, and the reaction mixture was stirred at room temperature for 3 h. TLC (PE/EA=1/1) was employed to monitor the reaction. After the reaction completed, the reaction was quenched by adding 10 ml of water and then extracted with EA (10 ml×3). The organic phase was combined, dried over anhydrous sodium sulfate, and the solvent was evaporated. Column chromatography (PE/EA=3/1) afforded white solid 0.618 g, yield: 87.11%.

reactant | N-((3R,3aS)-3-(((t-butyldimethylsilyl)oxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-acetamide | 1.747 mmol, 0.685 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)NC(C)=O)=O | C19H28N2O5Si
reactant | NaH | 3.495 mmol, 0.14 g | [H-].[Na+]
reactant | Iodomethane | 3.495 mmol, 0.496 g | IC | CH3I
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-((3R,3aS)-3-(((t-butyldimethylsilyl)oxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-N-methylacetamide | 0.618 g, yield: 87.11% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N(C(C)=O)C)=O | C20H30N2O5Si
